US08461175B2
5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinolin-7-carboxamide
A 100 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 396 mg of 5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile in 4 ml of toluene. After cooling to 0° C. using an ice bath, 0.64 ml of 95% sulphuric acid is added and the mixture is stirred at RT for 15 h. It is cooled to 0° C. and neutralized with 9 ml of 7.5M aqueous NH3 solution. The product is extracted with AcOEt, dried over MgSO4, filtered and concentrated under RP. It is purified by flash chromatography on silica gel (15-40 μm), eluting with a mixture of DCM and MeOH (95/05 by vol.). This gives 174 mg of 5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carboxamide (yellow solid). MS (E/I): m/z=514 (M+); 1H NMR: 1.23 (t, J=7.4 Hz, 3H); 1.65 (m, 2H); 2.09 (m, 2H); 2.98 (m, 2H); 3.05 (q, J=7.4 Hz, 2H); 3.62 (m, 2H); 3.81 (m, 1H); 6.09 (d, J=8.3 Hz, 1H); 7.33 (m, 2H); 7.55 (broad s, 1H); 7.68 (m, 1H); 8.17 (broad s, 1H); 8.23 (broad s, 1H); 8.35 (broad d, J=8.8 Hz, 1H); 8.45 (d, J=8.8 Hz, 1H); 12.85 (s, 1H).

reactant | 5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 396 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)N(N=C2NC2CCN(CC2)S(=O)(=O)CC)COCC[Si](C)(C)C | C30H36F2N6O3SSi
reactant | sulphuric acid | 0.64 ml | S(O)(O)(=O)=O | H2O4S
reactant | NH3 | 7.5M, 9 ml | N | H3N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinolin-7-carboxamide | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C(=O)N)NN=C2NC2CCN(CC2)S(=O)(=O)CC | C24H24F2N6O3S
